US05614633
In 4 ml of methylene chloride was dissolved 200 mg of 2,2-bistrifluoromethyl-6-nitro-4-(2-pyridyl)-2H-1-benzopyran and 210 mg of m-chloroperbenzoic acid (67%) was added thereto with stirring under ice-cooling. The mixture was stirred at room temperature for 14 hours. Potassium carbonate solution was added thereto and the mixture was extracted with methylene chloride. The organic layer was washed with water and dried. The solvent was distilled off and the resultant residue was purified using silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) to obtain 140 mg of 2-(2,2-bistrifluoromethyl-6-nitro-2H-1-benzopyran-4-yl)pyridine N-oxide represented by the following formula having a melting point of 208°-210° C.

reactant | 2,2-bistrifluoromethyl-6-nitro-4-(2-pyridyl)-2H-1-benzopyran | 200 mg | FC(C1(OC2=C(C(=C1)C1=NC=CC=C1)C=C(C=C2)[N+](=O)[O-])C(F)(F)F)(F)F | C16H8F6N2O3
reactant | m-chloroperbenzoic acid | 210 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,2-bistrifluoromethyl-6-nitro-2H-1-benzopyran-4-yl)pyridine N-oxide | 140 mg | FC(C1(OC2=C(C(=C1)C1=[N+](C=CC=C1)[O-])C=C(C=C2)[N+](=O)[O-])C(F)(F)F)(F)F | C16H8F6N2O4
